US04622342
N-[2-(3,5-difluoro-4-methoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine hydrochloride, m.p. 120°-140° C. was prepared from 1-(3,5-difluoro-4-methoxyphenyl)propan-2-one (500 mg) and 2-hydroxy-2-(3-chlorophenyl)ethanamine (430 mg) as a 44:56 mixture of diastereoisomers, by an analogous procedure to that described in Example 1.

reactant | 1-(3,5-difluoro-4-methoxyphenyl)propan-2-one | 500 mg | FC=1C=C(C=C(C1OC)F)CC(C)=O | C10H10F2O2
reactant | 2-hydroxy-2-(3-chlorophenyl)ethanamine | 430 mg | OC(CN)C1=CC(=CC=C1)Cl | C8H10ClNO
product | N-[2-(3,5-difluoro-4-methoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine hydrochloride | Cl.FC=1C=C(C=C(C1OC)F)CC(C)NCC(C1=CC(=CC=C1)Cl)O | InChI=1S/C18H20ClF2NO2.ClH/c1-11(6-12-7-15(20)18(24-2)16(21)8-12)22-10-17(23)13-4-3-5-14(19)9-13;/h3-5,7-9,11,17,22-23H,6,10H2,1-2H3;1H
